US08710245B2
(b) Synthesis of tert-butyldimethyl(2-(4-methylthiophen-2-yl)ethoxy)silane
To a solution of 2-(4-methylthiophen-2-yl)ethanol (3.0 g, 21.1 mmol) and diisopropylethylamine (4.1 g, 31.7 mmol) in dry DCM (50 mL) at 0° C. was added TBSCl (4.8 g, 32.0 mmol) in dry DCM (20 mL) dropwise and the mixture was then warmed to room temperature gradually. After the alcohol was consumed completely, water (10 mL) was added. The resulting mixture was extracted with DCM (3×100 mL), washed with brine, and dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound (5.1 g, 94%).

reactant | 2-(4-methylthiophen-2-yl)ethanol | 21.1 mmol, 3.0 g | CC=1C=C(SC1)CCO | C7H10OS
reactant | diisopropylethylamine | 31.7 mmol, 4.1 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBSCl | 32.0 mmol, 4.8 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyldimethyl(2-(4-methylthiophen-2-yl)ethoxy)silane | 5.1 g, 94% | C(C)(C)(C)[Si](OCCC=1SC=C(C1)C)(C)C | C13H24OSSi
